***************************************************************************
* Renesas RJK0653DPB
*
* Polarity N-Channel
* Ratings 60V/4.800000E-003OHMS/45A
*
* Date Created Tue Dec 13 21:17:37 2011
* Revision 18  Wed Apr 10 14:20:13 2013
*
***************************************************************************
* Model Generated by Transim Technology
*           Copyright(c) 2011
*         All Rights Reserved
*    UNPUBLISHED LICENSED SOFTWARE
*           www.transim.com
*
* Contains Proprietary Information Which
* is The Property of Transim or it's licensees.
*
* Commercial Use or Resale Restricted by
* Transim License Agreement.
***************************************************************************
* NO WARRANTY.
* RENESAS AND ITS SUPPLIER DO NOT AND CANNOT WARRANT THE PERFORMANCE
* OR RESULTS YOU MAY OBTAIN BY USING THIS SOFTWARE.
* AS TO ANY MATTER INCLUDING WITHOUT LIMITATION NONINFRINGEMENT OF THIRD
* PARTY RIGHTS, MERCHANTABILITY, INTEGRATION, SATISFACTORY QUALITY,
* OR FITNESS FOR ANY PARTICULAR PURPOSE.
***************************************************************************
*This product is supported in Renesas VP!
*If you are interested in Renesas VP, please access the following website.
*http://www.renesas.com/vp
*
***************************************************************************

.SUBCKT RJK0653DPB DRAIN GATE SOURCE

LD DRAIN 5 2e-11
RLD2 DRAIN 5 1.25663706143592
RLD1 5 4 3.2e-05
LG GATE 1 1.73e-09
RLG GATE 1 108.699105814207
LS SOURCE 8 6.3e-10
RLS2 SOURCE 8 39.5840674352314
RLS1 8 7 0.00019

RDS 7 4 2070421951.99382 TC=-0.05

RS 6 7 0.0001

RD 3 4 0.00313 TC=0.00588075126409876,-2.89376171397373E-05
RBD 9 4 0.00131509883869486 TC=0.00588075126409876,-2.89376171397373E-05
DBD 7 9 DBD

M1 3 2 6 6 MINT

RGS 2 6 2609194802.48395
CGS 2 6 5.900356e-09
RG 1 2 0.507542

* CGD
C11    11   12   1E-12
V11    11   0   0Vdc
G11    3 2 VALUE { V(13, 0)*I(V11) }
E11    12   0  3 2  1
E12    13   0  TABLE {V(12)}
+ -30	2378
+ -25	2378
+ -24	2378
+ -23	2378
+ -22	2378
+ -21	2378
+ -20	2378
+ -19	2378
+ -18	2378
+ -17	2378
+ -16	2378
+ -15	2378
+ -14	2378
+ -13	2378
+ -12	2378
+ -11	2378
+ -10	2378
+ -9	2378
+ -8	2378
+ -7	2378
+ -6	2378
+ -5	2378
+ -4	2140.2
+ -3	1902.4
+ -2	1664.6
+ -1	1426.8
+ 0	1189
+ 0.1	1043
+ 0.2	935.7
+ 0.3	849.1
+ 0.4	771.7
+ 0.5	701.2
+ 0.6	641.1
+ 0.7	594.8
+ 0.8	560
+ 0.9	533.8
+ 1	512.8
+ 2	401.7
+ 3	349.3
+ 4	315.8
+ 5	291.5
+ 6	272.6
+ 7	257.4
+ 8	244.8
+ 9	234.1
+ 10	225.3
+ 11	217.2
+ 12	209.9
+ 13	203.5
+ 14	197.7
+ 15	192.4
+ 16	187.5
+ 17	183.1
+ 18	179
+ 19	175.1
+ 20	171.6
+ 22	165.2
+ 24	159.5
+ 26	154.5
+ 28	149.9
+ 30	145.9
+ 32	142.2
+ 34	138.9
+ 36	135.9
+ 38	133.3
+ 40	131.2
+ 42	129.4
+ 44	127.9
+ 46	126.8
+ 48	125.9
+ 50	125.2
+ 52	124.6
+ 54	124.1
+ 56	123.8
+ 58	123.5
+ 60	123.3



.MODEL MINT NMOS(Vto=2.18 Kp=3.70e+002 Nfs=420000000000 Eta=0
+ Level=3 L=1e-4 W=1e-4 Gamma=0 Phi=0.6 Is=1e-24
+ Js=0 Pb=0.8 Cj=0 Cjsw=0 Cgso=0 Cgdo=0 Cgbo=0
+ Tox=1e-07 Xj=0
+ Uo=600 Vmax=3000)

.MODEL DBD D(Bv=71.483 Ibv=1.000000E-002 Rs=1E-6 Is=8.78313743483281e-12
+ N=1 M=0.51 VJ=0.51 Fc=0.5 Cjo=2.138e-09 Tt=4e-09)

.ENDS

